US04673746
A mixture of 12 g of 5-bromo-3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole, 10.8 g of potassium carbonate and 7.8 g of ethyl bromoacetate in 200 ml of 2-butanone is stirred at reflux for 6 hours. The reaction mixture is filtered and the solvent removed from the filtrate under vacuum. Recrystallization of the residue from ether-chloroform-hexane gives ethyl {[5-bromo-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate, mp 130°-132° C.

reactant | 5-bromo-3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole | 12 g | BrC=1C(=CC2=C(C(=NO2)C2=C(C=CC=C2)F)C1)O | C13H7BrFNO2
reactant | potassium carbonate | 10.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 7.8 g | BrCC(=O)OCC | C4H7BrO2
solvent | 2-butanone | 200 ml | CC(CC)=O | C4H8O
product | ethyl {[5-bromo-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate | BrC=1C(=CC2=C(C(=NO2)C2=C(C=CC=C2)F)C1)OCC(=O)OCC | C17H13BrFNO4
